US06362206B1
2-(2-Fluorophenyl)-2-[(l1R)-1-(3,4,5,6-tetrahydro-2H-pyran-2-yl)oxyethyl] oxirane (synthesized by the method described in EP0548553A) was converted into (1R)-1-[2-(2-fluorophenyl)-2-oxiranyl]ethanol by the method described in Reference Example 1. To an ice-cooled solution of this compound (34.77 g) in tetrahydrofuran (600 ml) were added triphenylphosphine (127.21 g), 3,5-dinitrobenzoic acid (102.88 g) and diethyl azodicarboxylate (84.47 g). The mixture was stirred at room temperature for 7 hours under an argon atmosphere, and then ethyl acetate (600 ml), diisopropyl ether (100 ml) and water (800 ml) were added. The separated aqueous layer was extracted with ethyl acetate (600 ml, 400 ml). The organic layers were combined, washed with water and a saturated aqueous solution of sodium chloride successively, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by silica gel chromatography (eluent: hexane/ethyl acetate=5/1) and recrystallized from ethyl acetate to give [(1S)-1-[(2R)-2-(2-fluorophenyl)-2-oxiranyl]ethyl] 3,5-dinitrobenzoate (23.15 g) as colorless needles.

reactant | (1R)-1-[2-(2-fluorophenyl)-2-oxiranyl]ethanol | FC1=C(C=CC=C1)C1(OC1)[C@@H](C)O | C10H11FO2
reactant | triphenylphosphine | 127.21 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3,5-dinitrobenzoic acid | 102.88 g | [N+](=O)([O-])C=1C=C(C(=O)O)C=C(C1)[N+](=O)[O-] | C7H4N2O6
reactant | diethyl azodicarboxylate | 84.47 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | diisopropyl ether | 100 ml | C(C)(C)OC(C)C | C6H14O
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
solvent | water | 800 ml | O | H2O
solvent | ethyl acetate | 600 ml | C(C)(=O)OCC | C4H8O2
product | [(1S)-1-[(2R)-2-(2-fluorophenyl)-2-oxiranyl]ethyl] 3,5-dinitrobenzoate | 23.15 g | [N+](=O)([O-])C=1C=C(C(=O)O[C@@H](C)[C@@]2(OC2)C2=C(C=CC=C2)F)C=C(C1)[N+](=O)[O-] | C17H13FN2O7
